US06352989B1
2-Cyclopropylamino-6, 7-dimethoxy-4-(3-nitrophenyl)quinazoline
Starting from 500 mg 2-chloro-6,7-dimethoxy-4-(3-nitrophenyl)quinazoline and 414 mg cyclopropylamine hydrochloride, 134 mg of the title compound was obtained in the same manner as in Production Example 4.

reactant | 2-chloro-6,7-dimethoxy-4-(3-nitrophenyl)quinazoline | 500 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=CC=C1)[N+](=O)[O-])OC)OC | C16H12ClN3O4
reactant | cyclopropylamine hydrochloride | 414 mg | Cl.C1(CC1)N
product | 2-Cyclopropylamino-6, 7-dimethoxy-4-(3-nitrophenyl)quinazoline | 134 mg | C1(CC1)NC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=CC=C1)[N+](=O)[O-])OC)OC | C19H18N4O4
